US09403801B2
Step 3) 3-(9-((5-chloro-2-((5-cyclopropyl-1H-pyrazol-3-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile
To a solution of 5-chloro-N2-(5-cyclopropyl-1H-pyrazol-3-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine hydrochloride (270 mg, 0.6159 mmol) in a mixture of DCM and DMF (6 mL/2 mL) were added TEA (253.2 mg, 2.502 mmol), cyanoacetic acid (52.1 mg, 0.733 mmol), HOAT (124.8 mg, 0.9169 mmol) and EDCI (177.5 mg, 0.9259 mmol). The reaction mixture was stirred at rt for 1.5 h then quenched with water (30 mL), and extracted with DCM/MeOH (10/1, 80 mL×3). The combined organic layers were dried over anhydrous Na2SO4, filtered and concentrated in vacuo and the residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=30/1). The crude product was recrystallized from MeOH (10 mL) to give the title compound as a white solid (106.6 mg, 36.91%).

reactant | 5-chloro-N2-(5-cyclopropyl-1H-pyrazol-3-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine hydrochloride | 0.6159 mmol, 270 mg | Cl.ClC=1C(=NC(=NC1)NC1=NNC(=C1)C1CC1)NC1CCC2(CCNCC2)CC1
reactant | cyanoacetic acid | 0.733 mmol, 52.1 mg | C(#N)CC(=O)O | C3H3NO2
reactant | HOAT | 0.9169 mmol, 124.8 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 0.9259 mmol, 177.5 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 3-(9-((5-chloro-2-((5-cyclopropyl-1H-pyrazol-3-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile | 106.6 mg, 36.91% | ClC=1C(=NC(=NC1)NC1=NNC(=C1)C1CC1)NC1CCC2(CCN(CC2)C(CC#N)=O)CC1 | C23H29ClN8O
